US09084794B2
f) 2-(4-bromo-2-fluorophenyl)acetamide
To a solution of 4-bromo-1-(bromomethyl)-2-fluorobenzene (56.0 mmol) in ethanol (75.0 ml) and water (15.0 ml) was added sodium cyanide (67.2 mmol). The reaction was refluxed for 3 days then cooled and diluted with water. The solids were collected, slurried in water (100 mL) and 6N aq HCl (50 mL) for 1 h, and then filtered and dried via suction. The collected solids were slurried again in dichloromethane, and the solids were collected and dried to afford the title product (6.9 g, 52% yield) as a white solid. MS(ES)+ m/e 232.1, 233.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.43 (s, 2 H) 6.99 (br. s., 1 H) 7.28 (t, J=8.08 Hz, 1 H) 7.36 (dd, J=8.34, 2.02 Hz, 1 H) 7.47 (dd, J=9.60, 2.02 Hz, 1 H) 7.50 (br. s., 1 H).

reactant | 4-bromo-1-(bromomethyl)-2-fluorobenzene | 56.0 mmol | BrC1=CC(=C(C=C1)CBr)F | C7H5Br2F
reactant | sodium cyanide | 67.2 mmol | [C-]#N.[Na+]
reactant | ethanol | 75.0 ml | C(C)O | C2H6O
solvent | water | 15.0 ml | O | H2O
product | 2-(4-bromo-2-fluorophenyl)acetamide | 6.9 g, 52% yield | BrC1=CC(=C(C=C1)CC(=O)N)F | C8H7BrFNO
